US09102673B2
Intermediate B 11: 2-[4-(trifluoromethoxy)phenoxy]ethanol
4-trifluoromethoxyphenol (8.9 g, 50.2 mmol) was dissolved in DMF and treated with (2-bromoethoxy)(tert-butyl)dimethylsilane (16.81 g, 70.3 mmol) followed by Cs2CO3 (17.99 g, 55.2 mmol). The reaction mixture was heated to 60° C. for 3 hrs. The reaction was quenched with water and hexane was added. The two layers were separated, and the aqueous phase was further extracted twice with hexane. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue was used without further purification. The residue was dissolved in acetonitrile (100 mL) and treated with triethylamine trihydrofluoride (20.23 g, 125 mmol) the mixture was left to stir at RT for 3 hrs. TLC (10% EtOAc in hexane) showed the reaction was complete. Quenched with water (150 mL) and added ether (1000 mL). The organic layer was washed with brine, dried (Na2SO4) filtered and concentrated in vacuo. The residue was purified by silica gel chromatography. The eluting solvent was 0-20% EtOAc in hexanes. 9.7 g of the title product was isolated.

reactant | 4-trifluoromethoxyphenol | 50.2 mmol, 8.9 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 70.3 mmol, 16.81 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | Cs2CO3 | 55.2 mmol, 17.99 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triethylamine trihydrofluoride | 125 mmol, 20.23 g | F.F.F.C(C)N(CC)CC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-(trifluoromethoxy)phenoxy]ethanol | 9.7 g | FC(OC1=CC=C(OCCO)C=C1)(F)F | C9H9F3O3
